US07335660B2
d) (2R)-4-(1,2-Dihydro-5-acenaphthylenyl)-1-{2-[(1S)-6-(1,1-dioxido-2-isothiazolidinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl}-2-methylpiperazine
2-[(1S)-6-(1,1-Dioxido-2-isothiazolidinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethanol was reacted with methanesulfonyl chloride, as described for the preparation of 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate. The resultant crude mesylate was then condensed with (3R)-1-(1,2-dihydro-5-acenaphthylenyl)-3-methylpiperazine, as described for Example 1b), to yield the title compound. M+H=532.

reactant | 2-[(1S)-6-(1,1-Dioxido-2-isothiazolidinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethanol | O=S1(N(CCC1)C=1C=CC2=C(CCO[C@H]2CCO)C1)=O | C14H19NO4S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | (3R)-1-(1,2-dihydro-5-acenaphthylenyl)-3-methylpiperazine | C1CC2=CC=C(C3=CC=CC1=C23)N2C[C@H](NCC2)C | C17H20N2
product | (2R)-4-(1,2-Dihydro-5-acenaphthylenyl)-1-{2-[(1S)-6-(1,1-dioxido-2-isothiazolidinyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl}-2-methylpiperazine | C1CC2=CC=C(C3=CC=CC1=C23)N2C[C@H](N(CC2)CC[C@@H]2OCCC3=C2C=CC(=C3)N3S(CCC3)(=O)=O)C | C31H37N3O3S
